US05371268
2-[1-(2,6-Difluorophenyl)-cyclopropylcarbonyloxymethyl]-phenylglyoxylic acid methyl ester O-methyloxime
A method similar to Example 2 was used and 11.8 g (60 mmol) of 1-(2,6-difluorophenyl )-cyclopropanecarboxylic acid, prepared according to Example 8b and dissolved in 60 ml of ethanol, were converted with 3.6 g (64 mmol) of potassium hydroxide to the potassium salt of 2,6-difluorophenylcyclopropanecarboxylic acid, and said salt was then reacted, at 90° C., in 100 ml of N-methylpyrrolidone, with 13.3 g (47 mmol) of 2-(bromomethyl)phenylglyoxylic acid methyl ester O-methyloxime. The resulting oily product was covered with a layer of diisopropyl ether and was crystallized by rubbing the wall of the vessel. Yield: 85%; mp.: 122°-123° C.; white crystals.

reactant | 1-(2,6-difluorophenyl )-cyclopropanecarboxylic acid | 60 mmol, 11.8 g | FC1=C(C(=CC=C1)F)C1(CC1)C(=O)O | C10H8F2O2
reactant | potassium hydroxide | 64 mmol, 3.6 g | [OH-].[K+]
reactant | potassium | [K] | K
reactant | 2-(bromomethyl)phenylglyoxylic acid methyl ester O-methyloxime | 47 mmol, 13.3 g | CON=C(C(=O)OC)C1=C(C=CC=C1)CBr | C11H12BrNO3
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[1-(2,6-Difluorophenyl)-cyclopropylcarbonyloxymethyl]-phenylglyoxylic acid methyl ester O-methyloxime | Yield: 85% | CON=C(C(=O)OC)C1=C(C=CC=C1)C(C1=C(C=CC=C1F)F)OC(=O)C1CC1 | C21H19F2NO5
